US07943141B2
Modification of Ara-C with M-PEOZ-SCM and Conjugate Activity POZ-Conjugation
M-PEOZ-O—CH2—CO2—NHS (M-PEOZ-SCM 5000) (180 mg, 0.034 mmol) was dissolved in 11 mL of pyridine and added to a solution of cytosine arabinose (Ara-C) (5.7 mg, 0.023 mmol), previously dissolved in 5 mL of anhydrous pyridine at 0° C. The resulting solution stirred for 72 hours at room temperature. Reverse phase HPLC (C-18 column) showed that reaction was complete. After evaporation of the solvent, the product was dissolved in methylene chloride (5 mL) and added drop by drop into 150 mL ether. The precipitate was collected by centrifugation at 4° C. and dried under vacuum. Yield 150 mg, 80%. NMR showed the usual peaks of the M-PEOZ backbone (above) plus the pyrimidine protons of Ara-C at 7.31, 7.67, 8.16, and 8.62 ppm. Exposure of the conjugate to pH 8 buffer showed that Ara-C is slowly released (15% after 24 hours), so the conjugate can be regarded as a prodrug.

reactant | cytosine arabinose | 0.023 mmol, 5.7 mg | O=C[C@@H](O)[C@H](O)[C@H](O)CO.N1C(=O)N=C(N)C=C1
solvent | pyridine | 11 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Ara-C | C1=CN(C(=O)N=C1N)[C@H]2[C@H]([C@@H]([C@H](O2)CO)O)O | C9H13N3O5
